US04806549
3-Butyryl-4-chloro-8-methoxyquinoline (5.0 g, 0.019 mol) and 4-methoxy-2-methylaniline (3.0 g, 0.022 mol) were heated under reflux in 1,4-dioxan (50 ml) for 30 minutes. The solvent was evaporated and the residue was dissolved in dichloromethane, washed with dilute hydrochloric acid, sodium bicarbonate solution, water and brine. The solution was dried and evaporated to an oil, which crystallised on standing. The crystals were triturated with ether and recrytallised from ethyl acetate to give 3-butyryl-4-(4- methoxy-2-methylphenylamino)-8-methoxyquinoline (2.4 g, 34.8%), m.p. 161°-3°.

reactant | 3-Butyryl-4-chloro-8-methoxyquinoline | 0.019 mol, 5.0 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H14ClNO2
reactant | 4-methoxy-2-methylaniline | 0.022 mol, 3.0 g | COC1=CC(=C(N)C=C1)C | C8H11NO
solvent | 1,4-dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(4- methoxy-2-methylphenylamino)-8-methoxyquinoline | 2.4 g, 34.8% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)OC)C)OC | C22H24N2O3
